US08980911B2
4-{[7-(Acetylamino)-1H-pyrrolo[2,3-c]pyridin-3-yl]carbonyl}-3,5-dichloro-N-propylbenzamide was prepared from N-(1H-pyrrolo[2,3-c]pyridin-7-yl) acetamide and 2,6-dichloro-4-(1-propylcarbamoyl)benzene carbonyl chloride (Compound No. 15).

reactant | N-(1H-pyrrolo[2,3-c]pyridin-7-yl) acetamide | N1C=CC=2C1=C(N=CC2)NC(C)=O | C9H9N3O
reactant | 2,6-dichloro-4-(1-propylcarbamoyl)benzene carbonyl chloride | ClC1=C(C(=CC(=C1)C(NCCC)=O)Cl)C(=O)Cl | C11H10Cl3NO2
product | 4-{[7-(Acetylamino)-1H-pyrrolo[2,3-c]pyridin-3-yl]carbonyl}-3,5-dichloro-N-propylbenzamide | C(C)(=O)NC=1N=CC=C2C1NC=C2C(=O)C2=C(C=C(C(=O)NCCC)C=C2Cl)Cl | C20H18Cl2N4O3
